US07186749B2
Step 2: 6-(1,5-Diphenyl-1H-pyrrol-2-yl)-2-naphthol.
In a similar manner as described in step 5 of Example 1, the title compound was prepared from 2-(6-methoxy-2-naphthyl)-1,5-dipheny-1H-pyrrol (1.25 g, 3.33 mmol), prepared in the previous step, and pyridine hydrochloride (30 g) with the exception that this reaction required heating at 205° C. Purification on silica gel (500 g, 200–300 mesh) using methylene chloride as the eluent gave 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol as a reddish solid (1.00 g, 83%), mp 222–223° C. Elemental Analysis for C26H19NO.0.11 C4H8O2 Calc'd: C, 85.57; H, 5.40; N, 3.77. Found: C, 85.28; H, 5.53; N, 3.73.

reactant | 2-(6-methoxy-2-naphthyl)-1,5-dipheny-1H-pyrrol | 3.33 mmol, 1.25 g | COC=1C=C2C=CC(=CC2=CC1)C=1N(C(=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H21NO
reactant | pyridine hydrochloride | 30 g | Cl.N1=CC=CC=C1
product | 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol | 1.00 g, 83% | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C26H19NO
